US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, (E)-4-phenylbut-3-enoyl chloride (0.198 g, 1.19 mmol) was reacted with 2-azidoethanamine (0.114 g, 1.19 mmol) and triethylamine (0.239 g, 2.37 mmol) in dichloromethane (5 mL) to give (E)-N-(2-azidoethyl)-4-phenylbut-3-enamide (0.168 g, 55%). 1H NMR (300 MHz, CDCl3) δ 7.68 (d, 1H), δ 7.45 (d, 2H), δ 7.29 (m, 3H), δ 7.04 (t, 1H), δ 6.59 (d, 1H), δ 3.55 (q, 2H), δ 3.47 (t, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 166.9, 141.6, 134.9, 130.1, 129.1, 128.1, 120.8, 51.1, 39.4 ppm; HRMS (ESI) calcd for C11H12N4O (M+) 216.1011. found 216.1005.

reactant | N-(2-azidoethyl)tetradecanamide | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | (E)-4-phenylbut-3-enoyl chloride | 1.19 mmol, 0.198 g | C1(=CC=CC=C1)/C=C/CC(=O)Cl | C10H9ClO
reactant | 2-azidoethanamine | 1.19 mmol, 0.114 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.37 mmol, 0.239 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (E)-N-(2-azidoethyl)-4-phenylbut-3-enamide | 0.168 g, 55% | N(=[N+]=[N-])CCNC(C\C=C\C1=CC=CC=C1)=O | C12H14N4O
